US06982274B2
2-Acetylamino-4-fluoro-benzoic acid ethyl ester
A total of 3.84 g of 2-amino-4-fluoro-benzoic acid ethyl ester obtained in Production Example II-7-a was dissolved in 50 ml of pyridine, 1.64 ml of acetyl chloride was added under ice-cooling, and the mixture was stirred for 1 hours. The reaction mixture was diluted with water and was extracted with diethyl ether. The resulting organic layer was washed with 1 N hydrochloric acid and brine, dried over magnesium sulfate, and then evaporated, to give 4.0 g of the title compound.

reactant | 2-amino-4-fluoro-benzoic acid ethyl ester | 3.84 g | C(C)OC(C1=C(C=C(C=C1)F)N)=O | C9H10FNO2
reactant | acetyl chloride | 1.64 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-Acetylamino-4-fluoro-benzoic acid ethyl ester | 4.0 g | C(C)OC(C1=C(C=C(C=C1)F)NC(C)=O)=O | C11H12FNO3
